US04876404
reacting a dichlorotoluene with carbon tetrachloride in 1,2-dichloroethane in the presence of an aluminum halide to thereby obtain crude dichlorotrichloromethyltoluene; and then

reactant | dichlorotoluene | ClC=1C(=C(C=CC1)C)Cl | C7H6Cl2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | dichlorotrichloromethyltoluene | ClC1=C(C(=C(C=C1)C)C(Cl)(Cl)Cl)Cl | C8H5Cl5
